// RLC bandpass filter - Spectre netlist
simulator lang=spectre
global 0

// Power supply
vdd (vdd 0) vsource type=dc dc=1.8

// Input pulse
vin (in 0) vsource type=pulse val0=0 val1=1.8 delay=1n rise=500p fall=500p width=12372.451828998808n period=24744.903657997616n

// RLC bandpass filter
l1 (in mid) inductor l=0.00033
r1 (mid out) resistor r=5112
c1 (out 0) capacitor c=4.7e-10

// Analysis - timestep fine enough for LC oscillation
tran tran stop=24744.903657997616n errpreset=moderate maxstep=2n

// Save outputs
save in out
